US06313122B1
A. 3-Benzyloxycarbonylamino-4-methoxynitrobenzene
To a stirred solution of 2-methoxy-5-nitroaniline (5.0 g, 30 mmol) and potassium carbonate (12 g, 90 mmol) in tetrahydrofuran (200 mL) and water (100 mL) was added benzyl chloroformate (6.1 g, 36 mmol). After 12 h, the mixture was diluted with ethyl acetate (200 mL) and the layers were separated. The organic phase was washed twice with 1 N aqueous hydrochloric acid, once with saturated aqueous sodium chloride solution, twice with saturated aqueous sodium bicarbonate solution, twice with saturated aqueous sodium chloride solution, dried (magnesium sulfate), filtered, and concentrated in vacuo. The resulting solid was suspended in diethyl ether and after sonication, the solid was filtered, washed with diethyl ether, and dried in vacuo to give 7.8 g (86%) of the title compound as a light yellow solid.

reactant | 2-methoxy-5-nitroaniline | 30 mmol, 5.0 g | COC1=C(N)C=C(C=C1)[N+](=O)[O-] | C7H8N2O3
reactant | potassium carbonate | 90 mmol, 12 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl chloroformate | 36 mmol, 6.1 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | water | 100 mL | O | H2O
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 3-Benzyloxycarbonylamino-4-methoxynitrobenzene | 7.8 g, 86% | C(C1=CC=CC=C1)OC(=O)NC=1C=C(C=CC1OC)[N+](=O)[O-] | C15H14N2O5
